US07129232B2
To a solution of tert-butyl {(3S)-4-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-hydroxy-4-oxobutyl}carbamate (68.51 g) in N,N-dimethylformamide (350 ml) was added chlorotriphenylmethane (67 g). To the mixture was dropwise added triethylamine (67 ml). The mixture was stirred at room temperature for 12 hours. The reaction mixture was dissolved in dichloromethane (2 L). The solution was washed successively with water and brine. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was triturated with acetonitrile and dried in vacuo to give tert-butyl ((3S)-3-hydroxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate (64 g).

reactant | tert-butyl {(3S)-4-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-hydroxy-4-oxobutyl}carbamate | 68.51 g | NC1=C(C=NN1C)NC([C@H](CCNC(OC(C)(C)C)=O)O)=O | C13H23N5O4
reactant | chlorotriphenylmethane | 67 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | triethylamine | 67 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
product | tert-butyl ((3S)-3-hydroxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-4-oxobutyl)carbamate | 64 g | O[C@@H](CCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C32H37N5O4
